US06303627B1
1-phenoxycarbonyl-2-methyl-4-(benzofur-2-yl)-1,2,3,6-tetrahydropyridine
A mixture of 2.02 gm (12.5 mMol) benzofuran-2-boronic acid, 3.5 gm (9.6 mMol) 1-phenoxycarbonyl-2-methyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine, 0.443 gm (0.38 mMol) tetrakis [triphenylphosphine]-palladium(0), and 1.22 gm (28.8 mMol) lithium chloride in 55 mL dimethoxyethane and 15 mL 2M aqueous sodium carbonate was stirred at reflux for about 18 hours. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate and aqueous sodium carbonate. The phases were separated and the organic phase was washed with saturated aqueous sodium chloride, dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with hexane containing 10% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 2.87 gm (90%) of the desired compound as a light yellow oil.

reactant | benzofuran-2-boronic acid | 12.5 mMol, 2.02 gm | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | 1-phenoxycarbonyl-2-methyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 9.6 mMol, 3.5 gm | O(C1=CC=CC=C1)C(=O)N1C(CC(=CC1)OS(=O)(=O)C(F)(F)F)C | C14H14F3NO5S
reactant | lithium chloride | 28.8 mMol, 1.22 gm | [Cl-].[Li+]
solvent | dimethoxyethane | 55 mL | C(OC)COC | C4H10O2
solvent | sodium carbonate | 2M, 15 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis [triphenylphosphine]-palladium(0) | 0.38 mMol, 0.443 gm | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-phenoxycarbonyl-2-methyl-4-(benzofur-2-yl)-1,2,3,6-tetrahydropyridine | 2.87 gm, 90% | O(C1=CC=CC=C1)C(=O)N1C(CC(=CC1)C=1OC2=C(C1)C=CC=C2)C | C21H19NO3
